US07842821B2
cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide (5 g), tributylphosphine (6.6 mL) and N-ethyl-2-nitrobenzenesulfonamide (6.17 g) are mixed under nitrogen atmosphere. It is cooled at −20/−30° C. Diisopropyl azadicarboxylate (4.8 mL) is added, maintaining the temperature. It is maintained under stirring, maintaining the temperature, for 4 hours. Tributylphosphine (1.5 mL) and diisopropyl azadicarboxylate (1.5 mL) are added. It is left to reach 20-25° C. and maintained for 30 minutes. It is cooled at 0-5° C.; it is filtered, washed with cold toluene and dried. After purifying by resuspension in methanol, 2.01 g of trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide are obtained.

reactant | cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 5 g | O[C@@H]1C2=C(S([C@@H](C1)C)(=O)=O)SC=C2 | C8H10O3S2
reactant | tributylphosphine | 6.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N-ethyl-2-nitrobenzenesulfonamide | 6.17 g | C(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
reactant | Tributylphosphine | 1.5 mL | C(CCC)P(CCCC)CCCC | C12H27P
product | trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 2.01 g | C(C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1C2=C(S([C@H](C1)C)(=O)=O)SC=C2 | C16H18N2O6S3
